US04092321
2-Bromo-5-pheylsulfinylpyridine
Following the procedure of Example 7 2-bromo-5phenylthiopyridine is converted to 2-bromo-5-(phenylsulfinlyl) pyridine with m-chloroperbenzoic acid.

reactant | 2-bromo-5phenylthiopyridine | BrC1=NC=C(C=C1)SC1=CC=CC=C1 | C11H8BrNS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 2-Bromo-5-pheylsulfinylpyridine | BrC1=NC=C(C=C1)S(=O)C1=CC=CC=C1 | C11H8BrNOS
